US05852014
(1-Benzyl-4-piperidyl)methyl-3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxylate (E15)
(1-Benzyl-4-piperidyl)methyl indole-3-carboxylate was treated initially with N-chlorosuccinimide (1.5 equivalents) for 2 h, then with 3-bromo-1-propanol (2 equivalents) for 16 h, followed by anhydrous potassium carbonate in acetone, using the method described in Example 1b. The crude product was purified by chromatography on silica gel eluting with chloroform/ethanol (19:1) to afford the title compound (E15) as a beige solid following recrystallisation from chloroform/ether (47%) mp 158°-160° C.

reactant | (1-Benzyl-4-piperidyl)methyl indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC1CCN(CC1)CC1=CC=CC=C1 | C22H24N2O2
reactant | N-chlorosuccinimide | 1.5 equivalents | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-bromo-1-propanol | 2 equivalents | BrCCCO | C3H7BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (1-Benzyl-4-piperidyl)methyl-3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxylate | C(C1=CC=CC=C1)N1CCC(CC1)COC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C25H28N2O3
